US03952012
A solution of 5.0 g. (0.03 mole) of p-cyanobenzoyl chloride in 60 ml. of methylene chloride is added to a suspension of 40 g. of aluminum chloride in 30 ml. methylene chloride. The resulting mixture is added dropwise to a chilled solution of 5.0 g. (0.03 mole) of ethyl 1-methylpyrrole-2-acetate in 15 ml. of methylene chloride. The resulting mixture is stirred at room temperature for 20 minutes, and then poured into ice acidified with dilute hydrochloric acid. The organic phase is separated, washed successively with N,N-dimethylaminopropylamine, 3N hydrochloric acid and brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated in vacuo. The resulting solid, which separates from the oily residue on standing, is recrystallized from methanol to give pure ethyl 5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetate, m.p. 117°-120°C.

reactant | p-cyanobenzoyl chloride | 0.03 mole | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 1-methylpyrrole-2-acetate | 0.03 mole | CN1C(=CC=C1)CC(=O)OCC | C9H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 5-(p-cyanobenzoyl)-1-methylpyrrole-2-acetate | C(#N)C1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)OCC)C=C1 | C17H16N2O3
